US07666878B2
1M Aqueous NaOH (0.5 mL) is added to a stirring solution of [1-(2,5-dimethyl-2H-pyrazol-3-ylmethyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester (29 mg, 0.09 mmol) in 1:1 THF/MeOH (2 mL). After 18 hours, the reaction is evaporated and the residue dissolved in water. The aqueous solution is acidified to pH 1, and the resulting precipitate collected by filtration to furnish [1-(2,5-dimethyl-2H-pyrazol-3-ylmethyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid; MH+=299.

reactant | NaOH | 1M, 0.5 mL | [OH-].[Na+]
reactant | [1-(2,5-dimethyl-2H-pyrazol-3-ylmethyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | 0.09 mmol, 29 mg | COC(CC1=C(N(C2=NC=CC=C21)CC=2N(N=C(C2)C)C)C)=O | C17H20N4O2
solvent | THF MeOH | 2 mL | C1CCOC1.CO
product | [1-(2,5-dimethyl-2H-pyrazol-3-ylmethyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid | CN1N=C(C=C1CN1C(=C(C=2C1=NC=CC2)CC(=O)O)C)C | C16H18N4O2
